2177-02-02 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 PRESEP CATHETER - START [**2177-2-1**] 09:12 AM
   - not weaned off pressors, bp's in 90's
   - spoke with daughters to update
   - did not diurese as bp's 90-100's
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Niaspan (Oral) (Niacin)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2177-2-1**] 11:23 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-2-1**] 07:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.7
   HR: 80 (61 - 103) bpm
   BP: 125/51(70) {85/39(52) - 130/63(77)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (2 - 14)mmHg
   Total In:
                                                                  4,561 mL
                                                                     84 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                    481 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    320 mL
   Urine:
                                                                  1,550 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,061 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), well-healed sternotomy
   scar, also well-healed RSC scar
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ant and lat fields)
   Abdominal: Soft, Bowel sounds present, Tender: RLQ, mild, well-healed
   midline surgical scar
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal, R hemiplegia
   Labs / Radiology
   195 K/uL
   9.9 g/dL
   117 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   30.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2177-2-1**]  03:42 PM
                             [**2177-2-2**]  04:02 AM
   WBC
   14.4
   Hct
   30.8
   Plt
   195
   Cr
   0.7
   TropT
   0.05
   0.05
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:68/3/0.05, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 HYPOTENSION (NOT SHOCK)
   78F with h/o stroke with R hemiparesis and aphasia presents with
   hypoxia, volume overload/CHF, and hypotension
   # Sepsis - Patient  initially on admission met SIRS criteria with T101,
   WBC 26, hypoxia, and hypotension. Currently is still requiring
   vasopressor support at 0.01. Suspected current source is pna given her
   CT evidence of bilateral opacities.
   - Central venous line
   - IV fluids to goal CVP 8-12 (already at goal)
   - Will continue to attempt to wean off pressors with a MAP target of >
   65 and UOP > 30cc/hr. Will give IVF bolus as necessary.
   - Broad spectrum antiobiotics: Will continue Vanc and Zosyn for nursing
   home acquired pna; flagyl was initially started for empiric C diff
   coverage however given the lack of diarrhea of findings of colitis on
   CT abdomen will d/c Flagyl at this time.
   - Follow-up blood, urine, and sputum cultures
   - Trend WBC count fever curve.
   # CHF/vol overload: EF unknown.
   - no further IVF once CVP = [**10-20**]; will need diuresis once BP stable
   off pressors
   - check echo
   - Will restart ACE-I, lasix once off pressors for 24 hours
   # CAD s/p CABG: EKG without signs of active ischemia, first set of
   enzymes negative. Will check another set of enzymes in 12 hours.
   - continue ASA, Plavix, statin
   - hold metoprolol since currently on pressors, will need to restart
   once off pressors >24 hours
   # stroke with aphasia: bilateral lower lobe pna suspicious for
   aspiration. Pt now more coherent today, will obtain speech and swallow
   to assess aspiration risk with pt and family
   - continue baclofen, oxybutynin, lidoderm, neurontin for chronic pain
   on the hemiparetic R side
   - Speech/Swallow consult
   # depression: conitnue paroxetine, buspirone
   # ? RIJ/RSC DVT: f/u RUE UE
   # FEN:  sips for now, if sepsis is improving/pressor requirement comes
   down, can adv diet; replete electrolytes prn
   # Access: LIJ; if has continuing pressor requirement, will place a-line
   # PPx:  heparin sub-q, no indication for ppi, bowel regimen prn
   # Code:  full
   # Dispo:  ICU
   # Comm: with patient; Daughter [**Telephone/Fax (1) 5295**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-2-1**] 09:12 AM
   18 Gauge - [**2177-2-1**] 09:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-02-02 10:08:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2177-2-1**] 09:12 AM
   Unable to wean off pressors until this AM - now off for several hrs.
   History obtained from Medical records
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Niaspan (Oral) (Niacin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-2**] 08:13 AM
   Piperacillin - [**2177-2-2**] 08:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-2-1**] 07:09 PM
   Other medications:
   lidocaine patch, docusate, oxybutinin, baclofen, paroxetine,
   gabapentin, buspirone, [**Last Name (LF) **], [**First Name3 (LF) 5**], simvastatin, flagyl, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-2**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36
C (96.8
   HR: 80 (62 - 103) bpm
   BP: 133/56(75) {85/39(52) - 137/59(75)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (2 - 14)mmHg
   Total In:
                                                                  4,561 mL
                                                                    986 mL
   PO:
                                                                  1,080 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    481 mL
                                                                    506 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    820 mL
   Urine:
                                                                  1,550 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,061 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed, R
   hemiparesis, aphasia
   Labs / Radiology
   9.9 g/dL
   195 K/uL
   117 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   30.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2177-2-1**]  03:42 PM
                             [**2177-2-2**]  04:02 AM
   WBC
   14.4
   Hct
   30.8
   Plt
   195
   Cr
   0.7
   TropT
   0.05
   0.05
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:68/3/0.05, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1.Sepsis
   Appears to have bilateral lower lobe PNA on Chest CT
   On Vanc/Zosyn/Flagyl
   2. Speech/swallow consult for hi aspiration risk
   3. CAD
   ? CHF pp't by aggressive volume resuscitation now appears euvolemic
   Will check TTE
   Restart opt meds when hemodynamically stable, continuing [**Year (4 digits) **], [**Year (4 digits) 131**],
   Statin
   4. PVD
   s/p fem [**Doctor Last Name 1539**]/AAA
   Extremities warm
   No intervention
   5. CVA
   Stable, on opt meds'
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2177-2-1**] 09:12 AM
   18 Gauge - [**2177-2-1**] 09:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-02-03 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Weaned off pressors yesterday AM
   - Flagyl d/c'd
   - Speech and Swallow consult ordered
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Niaspan (Oral) (Niacin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-2**] 08:13 AM
   Piperacillin - [**2177-2-2**] 11:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-2-2**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-3**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 103 (73 - 103) bpm
   BP: 140/58(78) {98/41(57) - 154/95(118)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (7 - 15)mmHg
   Total In:
                                                                  2,456 mL
                                                                     59 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                  1,256 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                  1,005 mL
   Urine:
                                                                  3,215 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                   -946 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 5 L NC
   ABG: ///30/
   Physical Examination
   General Appearance: Elderly female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no MRG,  well-healed sternotomy scar, also
   well-healed RSC scar
   Respiratory / Chest: CTAB anteriorly
   Abdominal: + BS, soft NT ND
   Extremities: trace edema in her lower extremities
   Skin:  Warm
   Neurologic: Alert, right hemiplegia present.  Expressive aphasia
   present.
   Labs / Radiology
   190 K/uL
   10.7 g/dL
   133 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   8 mg/dL
   105 mEq/L
   143 mEq/L
   32.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2177-2-1**]  03:42 PM
                             [**2177-2-2**]  04:02 AM
                             [**2177-2-3**]  04:03 AM
   WBC
   14.4
   11.7
   Hct
   30.8
   32.6
   Plt
   195
   190
   Cr
   0.7
   0.6
   TropT
   0.05
   0.05
   Glucose
   117
   133
   Other labs: CK / CKMB / Troponin-T:68/3/0.05, Differential-Neuts:81.6
   %, Lymph:10.3 %, Mono:5.2 %, Eos:2.8 %, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   CT torso [**2177-2-1**]
   IMPRESSION:
   1. No central pulmonary embolus.
   2. Bilateral lower lobe opacities, with dense consolidation
   opacification of the posterior basal segment of the left lower lobe,
   concerning for pneumonia.
   3. Pulmonary edema with effusions.
   4. Severe vascular calcifications.
   5. 2.2 cm right groin pseudoaneurysm at the confluence of the aorto-
   femoral graft and native artery.
   6. Indeterminant 4.4 cm left adrenal mass. This can be further
   evaluated with an adrenal protocol CT on a non-emergent basis.
   7. Mediastinal lymphadenopathy.
   [1][**2177-2-1**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [2][**2177-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   78F with h/o stroke with R hemiparesis and aphasia presents with
   hypoxia, volume overload/CHF, and hypotension
   # Sepsis - Patient  initially on admission met SIRS criteria with T101,
   WBC 26, hypoxia, and hypotension. Was weaned off pressor support
   yesterday am. Suspected current source is aspiration pna given her CT
   evidence of bilateral opacities.  On vanc and zosyn (day 1 = [**2-1**]),
   flagyl was initially started for empiric C diff coverage however given
   the lack of diarrhea of findings of colitis on CT abdomen it was
   stopped..
   - Broad spectrum antiobiotics: Will continue Vanc and Zosyn for nursing
   home acquired pna for a 10 day course.
   - Follow-up blood and urine cultures.  Send a sputum culture.
   - Trend WBC count fever curve.
   - Speech and swallow eval given concern for aspiration as the source of
   sepsis.
   # CHF/vol overload: EF unknown.  CT chest showed pulmonary edema with
   effusion.  Was almost 1 L negative yesterday.
   - As her SBPs have been stable, can consider gentle diuresis starting
   with 20 mg IV lasix for a goal of 500 cc to 1 L negative today if she
   does not continue to autodiurese on her own.
   - F/u TTE
   - Restart her acei as her BPs have remained stable.
   # CAD s/p CABG: EKG without signs of active ischemia, two sets of
   enzymes negative.
   - continue ASA, Plavix, statin
   - Restart her metoprolol as her BPs have remained stable
   # stroke with aphasia: bilateral lower lobe pna suspicious for
   aspiration.  Speech and swallow exam ordered to assess aspiration risk.
   - continue baclofen, oxybutynin, lidoderm, neurontin for chronic pain
   on the hemiparetic R side
   - Speech/Swallow consult
   # depression: conitnue paroxetine, buspirone
   # ? RIJ/RSC DVT: US showed no evidence of DVT
   #  Pseudoaneurysm: 2.2 cm right groin pseudoaneurysm was seen on CT at
   the confluence of the aorto- femoral graft and native artery.
   - Will likely need vascular surgery to evaluate this prior to
   discharge.
   # Incidental adrenal nodule: 4.4 cm left adrenal mass was noted on CT
   on admission.
   - Will need outpatient followup for this.
   # Code:  full
   # Comm: with patient; Daughter [**Telephone/Fax (1) 5295**]
   ICU Care
   Nutrition: Regular soft with thin liquids
   Glycemic Control:
   Lines: Will place another PIV and pull her central line once placed.
   Presep Catheter - [**2177-2-1**] 09:12 AM
   18 Gauge - [**2177-2-1**] 09:12 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor today.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);

2177-02-03 10:29:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Pressors weaned to off
   -Speech and swallow consulted to consider aspiration risk.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Niaspan (Oral) (Niacin)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2177-2-3**] 08:17 AM
   Vancomycin - [**2177-2-3**] 09:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-2-2**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2177-2-3**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 95 (74 - 103) bpm
   BP: 194/139(153) {98/49(68) - 194/139(153)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (6 - 16)mmHg
   Total In:
                                                                  2,456 mL
                                                                    403 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                  1,256 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                  1,435 mL
   Urine:
                                                                  3,215 mL
                                                                  1,435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                 -1,032 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed.  Patient responds to voice
   with questions and commands
   Labs / Radiology
   10.7 g/dL
   190 K/uL
   133 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   8 mg/dL
   105 mEq/L
   143 mEq/L
   32.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2177-2-1**]  03:42 PM
                             [**2177-2-2**]  04:02 AM
                             [**2177-2-3**]  04:03 AM
   WBC
   14.4
   11.7
   Hct
   30.8
   32.6
   Plt
   195
   190
   Cr
   0.7
   0.6
   TropT
   0.05
   0.05
   Glucose
   117
   133
   Other labs: PT / PTT / INR:13.7/33.1/1.2, CK / CKMB /
   Troponin-T:68/3/0.05, Differential-Neuts:81.6 %, Lymph:10.3 %, Mono:5.2
   %, Eos:2.8 %, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CT Torso-
   No PE
   Bilateral LL opacities
   Pulmonary edema with effusions
   4.4cm left adrenal mass
   Pseudoanerysm
   Microbiology: BC x2--NGTD
   Assessment and Plan
   78 yo female with history of CVA and right hemi-paresis and admitted
   with hypoxia and hypotension.  This was presumed to be sepsis related
   to pulmonary source of infection/inflammation with aspiration event and
   she has shown relatively rapid improvment over past 24 hours consistent
   with response of SIRS/Sepsis to initial intervention.
   SEPSIS-Likely pulmonary source
   -Vanco/Zosyn to continue
   -Pressors off x 24 hours
   -Speech and swallow today
   -Will need supervised feeds
   CHF-
   -Echo completed today
   -Chest CT consistent with effusions as evidence
   -Will continue negative fluid balance
   -Will restart ACE-I today
   -Return Lopressor
   CVA-
   -Continue with PRN pain medications
   -Clearly needs close management of complications such as aspiration
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-2-1**] 09:12 AM
   18 Gauge - [**2177-2-1**] 09:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes